US04223137
25 ml of pyridine was added to 1 g of 5-(1-hydroxy-2-isopropylaminobutyl)-8-hydroxy-3,4-dihydrocarbostyril hydrochloride, and 3 ml of isobutyryl chloride was added dropwise to the mixture while cooling with ice-water and stirring followed by stirring for 3 hours. After addition of about 200 ml of diethyl ether, acetone was added to the precipitate formed to obtain a crystalline product. The product thus obtained was recrystallized from acetone to obtain 0.8 g of 5-(1-hydroxy-2-isopropylaminobutyl)-8-isobutyryloxy-3,4-dihydrocarbostyril hydrochloride having a melting point of 239°-240° C. (with coloration and decomposition).

reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-(1-hydroxy-2-isopropylaminobutyl)-8-hydroxy-3,4-dihydrocarbostyril hydrochloride | 1 g | Cl.OC(C(CC)NC(C)C)C1=C2CCC(NC2=C(C=C1)O)=O
reactant | isobutyryl chloride | 3 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | diethyl ether | about 200 ml | C(C)OCC | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | 5-(1-hydroxy-2-isopropylaminobutyl)-8-isobutyryloxy-3,4-dihydrocarbostyril hydrochloride | 0.8 g | Cl.OC(C(CC)NC(C)C)C1=C2CCC(NC2=C(C=C1)OC(C(C)C)=O)=O | InChI=1S/C20H30N2O4.ClH/c1-6-15(21-12(4)5)19(24)14-7-9-16(26-20(25)11(2)3)18-13(14)8-10-17(23)22-18;/h7,9,11-12,15,19,21,24H,6,8,10H2,1-5H3,(H,22,23);1H
